US04677115
5,6-Dihydro-4-aminothieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide hydrochloride
A mixture of 5,6-dihydro-4-acetamido-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide, from Example 23, (2.0 g, 0.0062 mol) in CH3OH (20 ml) and 12N HCl (20 ml) was heated at reflux. After 6 hours, the solution was concentrated to dryness and the residue was treated with absolute ethanol. The mixture was concentrated to dryness and this procedure was repeated 4X. The final ethanol treatment was stirred, allowed to stand in the freezer overnight and filtered to yield 1.55 g (79%) of product; m.p. 251°-253° C.

reactant | 5,6-dihydro-4-acetamido-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | C(C)(=O)NC1C2=C(S(CC1)(=O)=O)SC(=C2)S(=O)(=O)N | C9H12N2O5S3
reactant | HCl | 12N, 20 ml | Cl | ClH
solvent | CH3OH | 20 ml | CO | CH4O
product | 5,6-Dihydro-4-aminothieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide hydrochloride | 1.55 g, 79% | Cl.NC1=C2C(S(CC1)(=O)=O)SC(=C2)S(=O)(=O)N | InChI=1S/C7H10N2O4S3.ClH/c8-5-1-2-15(10,11)7-4(5)3-6(14-7)16(9,12)13;/h3,7H,1-2,8H2,(H2,9,12,13);1H
